US06472372B1
4-(4-Methyl-2-pyrimidinyl)benzaldehyde
The title compound was prepared by a procedure analogous to Reference Example 12 by substituting 4-formylphenylboronic acid and 2-bromo-4-methylpyrimidine (prepared as described in Helv. Chim. Acta 1992, 75, 1621) for the 3-formylphenylboronic acid and 2-bromopyridine, respectively, of Reference Example 12. MS 199 (M+H)+.

reactant | 4-formylphenylboronic acid | C(=O)C1=CC=C(C=C1)B(O)O | C7H7BO3
reactant | 2-bromo-4-methylpyrimidine | BrC1=NC=CC(=N1)C | C5H5BrN2
reactant | 3-formylphenylboronic acid | C(=O)C=1C=C(C=CC1)B(O)O | C7H7BO3
reactant | 2-bromopyridine | BrC1=NC=CC=C1 | C5H4BrN
product | 4-(4-Methyl-2-pyrimidinyl)benzaldehyde | CC1=NC(=NC=C1)C1=CC=C(C=O)C=C1 | C12H10N2O
